US07625889B2
Step 2: 6-(5-{[(4-Fluoro-benzyl)-(1-methyl-piperidin-4-yl)-amino]-methyl}-furan-3-yl)-3-trityl-3H-benzooxazol-2-one:
Sodium triacetoxyborohydride (71 mg, 0.33 mmol) was added to a solution of 6-{5-[(1-methyl-piperidin-4-ylamino)-methyl]-furan-3-yl}-3-trityl-3H-benzooxazol-2-one (95 mg, 0.17 mmol) and 4-fluorobenzaldehyde (21 mg, 0.2 mmol) and acetic acid (20 mg, 0.33 mmol) in 1.5 mL of 1,2-dichloroethane. The mixture was stirred at ambient temperature for 20 h, and then it was diluted with chloroform and washed with saturated sodium carbonate solution. The aqueous phase was extracted with chloroform, and the combined organic phases were washed with water and brine, dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with dichloromethane/methanol) gave 64 mg of product.

reactant | Sodium triacetoxyborohydride | 0.33 mmol, 71 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 6-{5-[(1-methyl-piperidin-4-ylamino)-methyl]-furan-3-yl}-3-trityl-3H-benzooxazol-2-one | 0.17 mmol, 95 mg | CN1CCC(CC1)NCC1=CC(=CO1)C1=CC2=C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C37H35N3O3
reactant | 4-fluorobenzaldehyde | 0.2 mmol, 21 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | acetic acid | 0.33 mmol, 20 mg | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 1.5 mL | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-(5-{[(4-Fluoro-benzyl)-(1-methyl-piperidin-4-yl)-amino]-methyl}-furan-3-yl)-3-trityl-3H-benzooxazol-2-one | 64 mg | FC1=CC=C(CN(C2CCN(CC2)C)CC2=CC(=CO2)C2=CC3=C(N(C(O3)=O)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C2)C=C1 | C44H40FN3O3
